US05187163
AZT cyanoethylphosphate (600 mg, 1.5 mmol) and 2',3'-dideoxyadenosine (352 mg, 1.5 mmol) were dissolved in 60 ml of distilled pyridine. To the solution, 1.21 g (4 mmol) of 2,4,6-triisopropylbenzenesulfonyl chloride was added and stirred for 30 min., following by adding 0.984 ml (12 mmol) of N-methylimidazole and stirring at room temperature for 18 hours in a sealed flask, yielding AZT-DDA cyanoethylphosphate triester in solution.

reactant | AZT cyanoethylphosphate | 1.5 mmol, 600 mg | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-].C(#N)CCOP(=O)([O-])[O-]
reactant | 2',3'-dideoxyadenosine | 1.5 mmol, 352 mg | [C@@H]1(CC[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O2
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 4 mmol, 1.21 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | N-methylimidazole | 12 mmol, 0.984 ml | CN1C=NC=C1 | C4H6N2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | AZT | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
